US09326987B2
1,4-Dimethyl-1H-pyrazole-3-carbonyl chloride
1,4-Dimethyl-1H-pyrazole-3-carboxylic acid (190 mg) was weighed to a round bottom flask and thionyl chloride (1 ml) was added. The reaction was heated to reflux for 6 h then overnight at RT. After this time thionyl chloride was evaporated and the residue azeotroped with toluene to afford the title compound, 200 mg.

reactant | 1,4-Dimethyl-1H-pyrazole-3-carboxylic acid | 190 mg | CN1N=C(C(=C1)C)C(=O)O | C6H8N2O2
reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
product | 1,4-Dimethyl-1H-pyrazole-3-carbonyl chloride | CN1N=C(C(=C1)C)C(=O)Cl | C6H7ClN2O
